US09120822B2
Benzylamine (67 mg, 0.63 mmol, 2.0 eq) is added at room temperature to a stirred solution of 7,8-dibromo-2-methoxy-[1,5]naphthyridine (100 mg, 0.31 mmol, 1.0 eq) in N,N-dimethylformamide (10 mL), followed by potassium carbonate (87 mg, 0.63 mmol, 2.0 eq). After 2 hours stirring at 120° C., solvent is removed and the residue is extracted with ethyl acetate (3×10 mL) and water (10 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give the crude product that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 5:1, v/v) to afford benzyl-(3-bromo-6-methoxy-[1,5]naphthyridin-4-yl)-amine as a light yellow solid (50 mg, 46% yield).

reactant | Benzylamine | 0.63 mmol, 67 mg, 2.0 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | 7,8-dibromo-2-methoxy-[1,5]naphthyridine | 0.31 mmol, 100 mg, 1.0 eq | BrC1=CN=C2C=CC(=NC2=C1Br)OC | C9H6Br2N2O
reactant | potassium carbonate | 0.63 mmol, 87 mg, 2.0 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | benzyl-(3-bromo-6-methoxy-[1,5]naphthyridin-4-yl)-amine | 50 mg, 46% yield | C(C1=CC=CC=C1)NC1=C(C=NC2=CC=C(N=C12)OC)Br | C16H14BrN3O
